US08389523B2
9.3 g (66 mmol) of 2-fluoro-nitrobenzene and 10 g (73 mmol) of benzo[d][1,3]dioxol-5-ylamine were dissolved in N,N-dimethylformamide (60 mL) and 10.9 g (79 mmol) of potassium carbonate was added thereto. Mixed solution was heated to reflux for 10 hours while stirring. The reaction mixture was poured into water, and extracted with ethyl acetate. The extracted organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (developing solvent: ethyl acetate:hexane=1:3), to obtain 11 g (yield: 65%) of N-(2-nitrophenyl)benzo[d][1,3]dioxol-5-ylamine as red-purple crystals.

reactant | 2-fluoro-nitrobenzene | 66 mmol, 9.3 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | benzo[d][1,3]dioxol-5-ylamine | 73 mmol, 10 g | O1COC2=C1C=CC(=C2)N | C7H7NO2
reactant | potassium carbonate | 79 mmol, 10.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | N-(2-nitrophenyl)benzo[d][1,3]dioxol-5-ylamine | 11 g, yield: 65% | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC2=C(OCO2)C=C1 | C13H10N2O4
